* C:\Users\loicf\OneDrive\Documents\GitHub\StormTrigger\simulations\pulse_generator.asc
R1 N002 Vin 10k
R2 Vout N002 10k
R3 Vout N001 10k
C1 N001 0 100n
V1 Vcc 0 6
D1 N001 Vout D
V2 Vin 0 PULSE(0 6 0 1n 1n 1m 1 1)
XU1 N002 N001 Vcc 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=20m Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\loicf\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib UniversalOpamps2.sub
.backanno
.end
